datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72]>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[C:61]([CH:10]=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>CC1=CC(C)=C(C(C)C[CH:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:61](C)=[O:62])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([CH:10](C5=CC=CC=C5)[C:11](=[N+:12]5CCCCC5)[C:62]5=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]5)C1C2C43 10,11=10,20;12=11,12;20,21=21"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH2:10][CH:20]2CCC[C:22]([O-:23])=[C:21]2C)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C:11](C)(C)[H:10].C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C+:11](C)C.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:72]1=[CH:71][N:10]=[C:11]([O-:12])[NH:84][C:73]1=[O:74]>>CN(C)C1=CC=C([CH:20]([N:10]2[C:11](=[O:12])[NH:84][C:73](=[O:74])[C:72](C)=[CH:71]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].[H:10][BH2-:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10].[BH2:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[S+](C)[CH-:10]C1=CC=C([N+](=O)[O-])C=C1>>C[S+](C)[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1>>C1=CC=C([CH2:10][CH:20]2C[O:33][C:22]([O-:23])=[CH:21]2)C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20](C3=CC=CC=C3)C3C(C4=CC=CC=C4)[Pd-2:21]3([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([N:10]1CC[N+:12]2=[C:11]1[S:62]CCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC[O:72][C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10]>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11](C)[CH2:10][CH:20](C1=CC=CC=C1)C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[O:12][C:11](C(F)(F)F)=[CH2:10]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C(F)(F)F)=[O+:12][Si:63](C)(C)C)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
